US08426449B2
Step 6: {3-[2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid
To a solution of {3-[2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester (0.18 mmol) in MeOH and H2O was added lithium hydroxide (0.100 g, 2.4 mmol), and the reaction was stirred at 60° C. for 20 minutes. After work-up, the crude material was purified by preparative HPLC to give the title compound. M+H=603.

reactant | {3-[2-[(benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid ethyl ester | 0.18 mmol | C(C)OC(CC1=CC(=C(C=C1)OC)OC1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C35H35ClN2O7
reactant | lithium hydroxide | 2.4 mmol, 0.100 g | [OH-].[Li+]
solvent | MeOH | CO | CH4O
solvent | H2O | O | H2O
product | {3-[2-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4-(4-chloro-benzoylamino)-phenoxy]-4-methoxy-phenyl}-acetic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(OC=2C=C(C=CC2OC)CC(=O)O)C=CC(=C1)NC(C1=CC=C(C=C1)Cl)=O | C33H31ClN2O7
